US04020076
A suspension of 38.3 g of cyclohexyl N-carbethoxy-thiocarbamate and 11.56 g of potassium ethylate in 400 ml of methanol was stirred for 2 hours and 12.45 g of chloroacetonitrile were added thereto. The mixture was stirred for 48 hours at room temperature and was then concentrated to dryness. The residue was added to water and the aqueous phase was acidified with hydrochloric acid. The aqueous phase was extracted with ether and the ether phase was dried and concentrated to dryness to obtain 15 g of 2-cyclohexyloxy-4-hydroxy-5-cyanothiazole in the form of white crystals melting at 138° C.

reactant | cyclohexyl N-carbethoxy-thiocarbamate | 38.3 g | C(=O)(OCC)NC(OC1CCCCC1)=S | C10H17NO3S
reactant | potassium ethylate | 11.56 g | CC[O-].[K+]
reactant | chloroacetonitrile | 12.45 g | ClCC#N | C2H2ClN
solvent | methanol | 400 ml | CO | CH4O
product | 2-cyclohexyloxy-4-hydroxy-5-cyanothiazole | 15 g | C1(CCCCC1)OC=1SC(=C(N1)O)C#N | C10H12N2O2S
